US04150129
The mixture of 22.1 g of 3-(2-piperidinopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone and 128 ml of 48% hydrobromic acid is stirred under reflux for six hours. It is cooled, basified with concentrated ammonia and extracted with chloroform. The extract is dried, evaporated, the residue crystallized from diethyl ether and recrystallized from acetone, to yield the 3-(2-piperidinopropyl)4-(4-hydroxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone melting at 178°-181°.

reactant | 3-(2-piperidinopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 22.1 g | N1(CCCCC1)C(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C | C21H30N2O2
reactant | hydrobromic acid | 128 ml | Br | BrH
reactant | ammonia | N | H3N
product | 3-(2-piperidinopropyl)4-(4-hydroxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | N1(CCCCC1)C(CC=1C(NCCCC1C1=CC=C(C=C1)O)=O)C | C20H28N2O2
